US08470384B2
Step 2: preparation of N1-geranyl-N2-(2-(pyridin-2-yl)ethyl)oxalamide
The ethyl 2-(3,7-dimethylocta-2,6-dienylamino)-2-oxoacetate (1.5 g, 5.92 mmol) was mixed with 2-(pyridin-2-yl)ethanamine (1 g, 8.19 mmol) in ethanol (20 ml) to give a yellow solution. The reaction mixture was stirred at reflux for 1.5 hour. Then the solvent was removed by evaporation. The remaining residual solid was washed with ethanol/pentane to provide the target compound as white crystals (1.3 g; 65% yield). The product is ca. 97% pure according to NMR analysis.

reactant | ethyl 2-(3,7-dimethylocta-2,6-dienylamino)-2-oxoacetate | 5.92 mmol, 1.5 g | CC(=CCNC(C(=O)OCC)=O)CCC=C(C)C | C14H23NO3
reactant | 2-(pyridin-2-yl)ethanamine | 8.19 mmol, 1 g | N1=C(C=CC=C1)CCN | C7H10N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N1-geranyl-N2-(2-(pyridin-2-yl)ethyl)oxalamide | 1.3 g, 65% yield | C(\C=C(/C)\CCC=C(C)C)NC(C(=O)NCCC1=NC=CC=C1)=O | C19H27N3O2
